US06221913B1
Preparation of Trityl-leucine Amide Resin
In the preparation of the urea of aniline and leucine methyl amide, 100 mg of p-methylbenzhydrylamine (MBHA) resin (0.81 meq/g, 100-200 mesh) was contained within a sealed polypropylene mesh packet as used in simultaneous multiple synthesis as described in Houghten, (Proc. Natl. Acad. Sci. USA 82:5131, 1985). Following neutralization (1 min) with 5% diisopropylethylamine (DIEA) in dichloromethane (DCM) (3×5 ml), the resin was washed with DCM (3×5 ml). The resin packet was added to a solution of tert-butyloxycarbonyl-L-leucine (Boc-Leu) (111 mg, 0.48 meq) and 1-hydroxybenzotriazole (65 mg, 0.48 meq) in dimethylformamide (DMF) (2.4 ml) in a 10 ml polypropylene bottle. Following addition of 2.4 ml 0.2 M diisopropylcarbodiimide (DICI) in DMF, the resin was shaken on a reciprocation shaker for 1.5 h. The resin was then washed with DMF (3×5 ml) and DCM (3×5 ml). The Boc protecting group was then removed by treatment with 55% trifluoroacetic acid in DCM for 30 min. The resin was then washed with DCM (2×5 ml), isopropanol (IPA, 3×5 ml), DCM (3×5 ml), neutralized with 5% DIEA in DCM (3×5 ml), and washed with DCM (2×5 ml). The resin packet was then shaken overnight (16 h) in 5 ml of 0.1 M trityl chloride in DCM/DMF (9:1) in the presence of DIEA. Completeness of the trityl coupling was verified using the bromophenol blue color test as described in Krchnak et al., (Coll. Czech. Chem. Commun. 53:2542, 1988), and repeated as necessary.

reactant | urea | NC(=O)N | CH4N2O
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | leucine methyl amide | CNC([C@@H](N)CC(C)C)=O | C7H16N2O
reactant | p-methylbenzhydrylamine | 100 mg | CC1=CC=C(C(C2=CC=CC=C2)N)C=C1 | C14H15N
reactant | polypropylene | C(C(C)[*:2])[*:1]
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyloxycarbonyl-L-leucine | 111 mg, 0.48 meq | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | 1-hydroxybenzotriazole | 65 mg, 0.48 meq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | polypropylene | 10 ml | C(C(C)[*:2])[*:1]
reactant | diisopropylcarbodiimide | 0.2 M, 2.4 ml | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 2.4 ml | CN(C=O)C | C3H7NO
product | Trityl-leucine Amide | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)N | C25H28N2O
